US04239901
The starting compound is obtained in the following manner: 2.46 g (10 mmoles) of 4-(pyrazol-1-yl) mandelic acid ethyl ester and 10 ml of thionyl chloride are heated to 40° C. for 10 minutes, the excess thionyl chloride is distilled off. α-chloro-4-(pyrazol-1-yl) phenylacetic acid ethyl ester (oil) is obtained.

reactant | 4-(pyrazol-1-yl) mandelic acid ethyl ester | 10 mmoles, 2.46 g | C(C)OC(C(O)C1=CC=C(C=C1)N1N=CC=C1)=O | C13H14N2O3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | α-chloro-4-(pyrazol-1-yl) phenylacetic acid ethyl ester | C(C)OC(C(Cl)C1=CC=C(C=C1)N1N=CC=C1)=O | C13H13ClN2O2
